US04452809
Example 60 Cis-4-(3-chlorophenoxy)-1-phenylmethyl-3-pyrrolidinol
A slurry of 1.2 g. (50 mmoles) of sodium hydride (2.1 g. of 57% oil dispersion, washed with ether to remove the oil) in 25 ml. of dimethyl sulfoxide was stirred while 9.6 g. (50 mmoles) of 1-benzyl-3,4-dihydroxypyrrolidine, cis isomer, in 25 ml. of dimethyl sulfoxide was added. The mixture was stirred at ambient temperature for one hr., then 50 ml. of dimethyl sulfoxide was added and the temperature was raised to 95° C. for 0.5 hr. Mechanical stirring of the thick slurry was necessary while 13 g. (100 mmoles) of m-chlorofluorobenzene was added. During the heating period of 1 hr. at 95° C., all precipitate dissolved. The reaction mixture was concentrated by vacuum distillation of the dimethyl sulfoxide and excess m-chlorofluorobenzene. The residue was poured into water and extracted with hot cyclohexane. The organic extracts were combined, dried over anhydrous sodium sulfate and concentrated to give 7.5 g. (49%) of off-white crystals, m.p. 86°-87.5° C.

reactant | sodium hydride | 50 mmoles | [H-].[Na+]
reactant | 1-benzyl-3,4-dihydroxypyrrolidine | 50 mmoles | C(C1=CC=CC=C1)N1CC(C(C1)O)O | C11H15NO2
reactant | m-chlorofluorobenzene | 100 mmoles | ClC=1C=C(C=CC1)F | C6H4ClF
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | Cis-4-(3-chlorophenoxy)-1-phenylmethyl-3-pyrrolidinol | ClC=1C=C(O[C@@H]2[C@@H](CN(C2)CC2=CC=CC=C2)O)C=CC1 | C17H18ClNO2
